US07943567B2
The crude 1,1-bis(trifluoromethyl)-3-penten-1-ol (54 grams) can be placed in a 250 mL three-neck flask and 125 mL of concentrate H2SO4 added to form a mixture which can be stirred and heated slowly to 95° C. (separating compounds having lower boiling points from the mixture between 34° C. and 55° C.). The 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentadiene (15.6 grams, 45.5% yield) produced can be separate from the mixture as a gas between 70° C. and 74° C.

reactant | 1,1-bis(trifluoromethyl)-3-penten-1-ol | 54 grams | FC(C(CC=CC)(O)C(F)(F)F)(F)F | C7H8F6O
reactant | H2SO4 | 125 mL | OS(=O)(=O)O | H2O4S
product | 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentadiene | 15.6 grams, 45.5% yield | FC(C(=CC=C)C(F)(F)F)(F)F | C6H4F6
